US08217027B2
Ethyl 2-(4-fluorophenoxy)acetate (3.12 g, 15.74 mmol) was dissolved in diethyl ether (50 ml) and cooled to about 0° C. Lithium aluminum hydride (1.792 g, 47.2 mmol) was added in portions while maintaining reaction temperature below 35° C. The reaction was allowed to stir at room temperature for one hour. The crude reaction was diluted with ether (50 mL) then cooled in an ice bath and quenched by dropwise addition of water (6.1 mL), then 2 M NaOH (12.2 mL), then water (6.1 mL). The mixture was filtered and concentrated. The crude product was purified on silica gel (4:1 heptane:EtOAc as eluant) to give 2-(4-fluoro-phenoxy)-ethanol (1.36 g, 55%).

reactant | Ethyl 2-(4-fluorophenoxy)acetate | 15.74 mmol, 3.12 g | FC1=CC=C(OCC(=O)OCC)C=C1 | C10H11FO3
reactant | Lithium aluminum hydride | 47.2 mmol, 1.792 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 2-(4-fluoro-phenoxy)-ethanol | 1.36 g, 55% | FC1=CC=C(OCCO)C=C1 | C8H9FO2
